US05559111
5(S)-Amino-4(S)-hydroxy-2(S),7(S)-diisopropyl-8-[4-methoxy-3-(2-methoxymethoxyethyl)-phenyl]-octanoic acid (N-butyl)amide
50 mg of 5(S)-azido-4(S)-hydroxy-8(R,S)-isobutyroxy-2(S),7(S)-diisopropyl-8-[4-methoxy-3-(2-methoxymethoxyethyl)-phenyl]-octanoic acid (N-butyl)amide are hydrogenated in 10 ml of methanol in the presence of 50 mg of 10% Pd/C at room temperature and under normal pressure. The reaction mixture is filtered and concentrated by evaporation. The residue is purified by means of FC (2 g of silica gel, dichloromethane/methanol=9:1). The title compound is obtained: Rf (dichloromethane/methanol=9:1)=0.19; HPLC Rt =13.42 minutes; FAB-MS (M+H)+ =509.

reactant | 5(S)-azido-4(S)-hydroxy-8(R,S)-isobutyroxy-2(S),7(S)-diisopropyl-8-[4-methoxy-3-(2-methoxymethoxyethyl)-phenyl]-octanoic acid (N-butyl)amide | 50 mg | C(CCC)NC([C@@H](C[C@@H]([C@H](C[C@H](C(C1=CC(=C(C=C1)OC)CCOCOC)OC(C(C)C)=O)C(C)C)N=[N+]=[N-])O)C(C)C)=O | C33H56N4O7
solvent | methanol | 10 ml | CO | CH4O
catalyst | Pd/C | 50 mg | [Pd] | Pd
product | 5(S)-Amino-4(S)-hydroxy-2(S),7(S)-diisopropyl-8-[4-methoxy-3-(2-methoxymethoxyethyl)-phenyl]-octanoic acid (N-butyl)amide | C(CCC)NC([C@@H](C[C@@H]([C@H](C[C@H](CC1=CC(=C(C=C1)OC)CCOCOC)C(C)C)N)O)C(C)C)=O | C29H52N2O5
